US07094801B2
Ex-109E: To a solution of 3-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole (Ex-109D, 0.78 g, 2.98 mmol) was added dichloromethyl methyl ether (0.4 mL, 4.48 mmol) followed by addition of titanium tetrachloride (1.0M in dichloromethane, 9.0 mL, 9.0 mmol) over 10 min at 0° C. The reaction mixture was allowed to stir at 0° C. for 30 min and ambient temperature overnight. The reaction mixture was poured into ice. The aqueous solution was extracted with dichloromethane and isopropyl alcohol (33%, v/v, in dichloromethane). The combined dichloromethane and isopropyl alcohol were washed with brine, dried over sodium sulfate and concentrated. The aqueous solution was treated with sodium hydroxide to pH 12 and extracted again with isopropyl alcohol (33%, v/v, in dichloromethane) to give additional product. The crude product was purified by flash chromatography. Elution with methanol (10%, v/v, in dichloromethane) afford 5-(4-isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-benzaldehyde (0.24 g, 28%): 1H NMR (CDCl3) δ 10.30 (s, 1H), 8.17 (s, 1H), 7.90 (s, 1H), 6.51 (s, 1H), 4.00 (s, 3H), 3.87 (s, 3H), 3.58 (d, J=7.2 Hz, 2H), 1.91–1.80 (m, 1H), 0.77 (d, J=6.5 Hz, 6H).

reactant | 3-(2,4-dimethoxy-phenyl)-4-isobutyl-4H-[1,2,4]triazole | 2.98 mmol, 0.78 g | COC1=C(C=CC(=C1)OC)C1=NN=CN1CC(C)C | C14H19N3O2
reactant | dichloromethyl methyl ether | 4.48 mmol, 0.4 mL | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 9.0 mmol, 1.0M, 9.0 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 5-(4-isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-benzaldehyde | 0.24 g, 28% | C(C(C)C)N1C(=NN=C1)C=1C(=CC(=C(C=O)C1)OC)OC | C15H19N3O3
